US06281227B1
H. 6-Chloro-benzo[b]thiophene-2-sulfonic acid [1-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
Ammonia gas is bubbled for 5 minutes into a solution of 6-chloro-benzo[b]thiophene-2-sulfonic acid [1-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (0.4 g, 0.22 mmol) in MeOH (10 mL). The solution is refluxed overnight then concentrated to dryness. The crude product is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the product (0.065 g, 0.13 mmol) as a white solid.

reactant | Ammonia | N | H3N
reactant | 6-chloro-benzo[b]thiophene-2-sulfonic acid [1-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.22 mmol, 0.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C(=NC=CC21)Cl)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl)=O | C26H20Cl2N4O5S3
solvent | MeOH | 10 mL | CO | CH4O
product | 6-Chloro-benzo[b]thiophene-2-sulfonic acid [1-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.13 mmol, 0.065 g | ClC1=NC=CC2=C1C=C(N2)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl)=O | C20H16Cl2N4O3S2
